US09144239B2
Step 2: Preparation of (2S,3S,4S)-2,3-bis(2-methylallyloxy)pentane-1,4-diol
To a solution of (3R,4S,5S)-5-methyl-3,4-bis(2-methylallyloxy)dihydrofuran-2(3H)-one (1 g, 4.16 mmol) in THF (10 mL) at 0° C. was added 1.0 M LAH (9.57 mL, 9.57 mmol) in THF over 15 min. The mixture was warmed to room temperature and stirred for 2 h, then carefully added dropwise to an ice cold saturated aqueous ammonium chloride (NH4Cl) solution (100 mL). The phases were separated and the aqueous layer was extracted with DCM. The combined organic layers were dried over sodium sulfate (Na2SO4), filtered, and the filtrate was concentrated. Purification by flash chromatography (SiO2) afforded the title compound as a colorless oil (920 mg, 90%): 1H NMR (400 MHz, CDCl3) δ 4.99 (d, J=7.8 Hz, 2H), 4.91 (d, J=8.9 Hz, 2H), 4.09-3.92 (m, 5H), 3.93-3.83 (m, 1H), 3.82-3.73 (m, 1H), 3.70 (q, J=4.7 Hz, 1H), 3.39 (dd, J=6.0, 5.0 Hz, 1H), 3.14 (s, 1H), 2.46 (s, 1H), 1.77 (s, 3H), 1.76 (s, 3H), 1.26 (d, J=6.3 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 141.95, 141.75, 112.99, 112.79, 81.57, 79.41, 75.52, 74.57, 67.60, 61.33, 19.67, 19.63, 19.61.

reactant | (3R,4S,5S)-5-methyl-3,4-bis(2-methylallyloxy)dihydrofuran-2(3H)-one | 4.16 mmol, 1 g | C[C@H]1[C@@H]([C@H](C(O1)=O)OCC(=C)C)OCC(=C)C | C13H20O4
reactant | LAH | 9.57 mmol, 1.0 M, 9.57 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,3S,4S)-2,3-bis(2-methylallyloxy)pentane-1,4-diol | 920 mg, 90% | CC(CO[C@@H](CO)[C@H]([C@H](C)O)OCC(=C)C)=C | C13H24O4
